US09107411B2
6-Chloro-1-ethyl-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylic acid (93% pure; 0.116 g, 0.22 mmol) was dissolved in dichloromethane (2.5 ml). N,N-Dimethylformamide (1 drop) and oxalyl chloride (0.058 ml, 0.66 mmol) were successively added dropwise. The reaction mixture was stirred at room temperature for 30 min and at 40° C. for 30 min, and then the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (2.5 ml) and added dropwise at room temperature to a solution of 1-aminocyclopropanecarbonitrile hydrochloride (0.052 g, 0.44 mmol) and diisopropylethylamine (0.085 g, 0.66 mmol) in dichloromethane (2.5 ml). The reaction mixture was stirred at room temperature for 16 h and then ethyl acetate was added. The organic phase was washed with saturated ammonium chloride solution and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulphate and the solvent was removed under reduced pressure. The residue was chromatographed with water and acetonitrile through RP silica gel and gave 0.033 g (24% of theory) of 6-chloro-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide.

reactant | 6-Chloro-1-ethyl-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylic acid | 0.22 mmol, 0.116 g | ClC1=C(C=C2C=C(N(C2=C1)CC)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C21H15ClF6N2O3
reactant | oxalyl chloride | 0.66 mmol, 0.058 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 0.44 mmol, 0.052 g | Cl.NC1(CC1)C#N
reactant | diisopropylethylamine | 0.66 mmol, 0.085 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
catalyst | N,N-Dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.033 g, 24% | ClC1=C(C=C2C=C(N(C2=C1)CC)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C25H19ClF6N4O2
